US07122672B2
Step 1: Preparation of methyl 2-bromo-3-methoxypropionate
Methyl 2,3-dibromopropionate (21.9 g) and trimethylamine N-oxide (0.1 g) in methanol (8 ml) were cooled to −5° C. with stirring under an atmosphere of nitrogen. A methanolic solution of sodium methoxide, freshly prepared from sodium (2.25 g) and methanol (24 ml), was added dropwise over 15 minutes to the mixture, which was maintained below 0° C. by cooling. On complete addition, the mixture was stirred for a further 30 minutes then acetic acid (1 ml) was added followed by diethyl ether (100 ml). The mixture was filtered to remove insoluble salts and the filtrate evaporated under reduced pressure to give an oil, which was re-dissolved in a small volume of diethyl ether and re-filtered. The filtrate was evaporated under reduced pressure to give the required product (17.4 g) as a pale yellow oil.

reactant | Methyl 2,3-dibromopropionate | 21.9 g | BrC(C(=O)OC)CBr | C4H6Br2O2
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 2.25 g | [Na] | Na
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 8 ml | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | trimethylamine N-oxide | 0.1 g | C[N+](C)(C)[O-] | C3H9NO
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | methanol | 24 ml | CO | CH4O
product | methyl 2-bromo-3-methoxypropionate | 17.4 g | BrC(C(=O)OC)COC | C5H9BrO3
